US03984465
Step D: 2-Ethyl-2-methyl-3-phenyl-6,7-dichloro-5-methoxy-1-indanone
2-Ethyl-3-phenyl-6,7-dichloro-5-methoxy-1-indanone (10.05 g., 0.03 mole) and methyl iodide (12.5 ml., 0.2 mole) dissolved in dimethylformamide (100 ml.)-benzene (100 ml.) at 0° C. under nitrogen are treated portionwise with sodium methoxide (3.54 g., 0.033 mole) over a 30 minute period. The reaction mixture is stirred in an ice-water bath for one hour, then poured into water (500 ml.), extracted with benzene, the organic layer separated, dried over anhydrous magnesium sulfate, filtered and concentrated to dryness to give an oily residue which on trituration with hexane gives 7.64 g. (71%) of 2-ethyl-2-methyl-3-phenyl-6,7-dichloro-5-methoxy-1-indanone which melts at 132° C. on crystallization from cyclohexane.

reactant | 2-Ethyl-3-phenyl-6,7-dichloro-5-methoxy-1-indanone | 0.03 mole, 10.05 g | C(C)C1C(C2=C(C(=C(C=C2C1C1=CC=CC=C1)OC)Cl)Cl)=O | C18H16Cl2O2
reactant | methyl iodide | 0.2 mole, 12.5 ml | CI | CH3I
reactant | sodium methoxide | 0.033 mole, 3.54 g | C[O-].[Na+]
reactant | water | 500 ml | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 2-Ethyl-2-methyl-3-phenyl-6,7-dichloro-5-methoxy-1-indanone | C(C)C1(C(C2=C(C(=C(C=C2C1C1=CC=CC=C1)OC)Cl)Cl)=O)C | C19H18Cl2O2
